US04065573
A reaction mixture consisting of 10 gm. (0.085 mole) 4-hydroxycyclohexanone, 4.75 ml. ethylene glycol, 0.20 gm. p-toluenesulfonic acid, and 100 ml. benzene is heated at the reflux temperature in a reaction vessel fitted with a Dean and Stark trap for 2 hours. After the reaction mixture has cooled, it is washed first with water and then with brine. The benzene is then removed by evaporation under reduced pressure giving the intermediate 4-hydroxycyclohexanone ethylene monoketal as a viscous oil weighing 14.12 gm. The 4-hydroxycyclohexanone ethylene monoketal is dissolved in 100 ml. methylene chloride and added with stirring to a suspension consisting of 55.0 gm. chromium trioxide (predried for 24 hours under reduced pressure over phosphorous pentoxide), one liter dry methylene chloride, and 52.8 gm. 3,5-dimethylpyrazole. After continued stirring for 10 min. this dark reaction mixture is poured onto a two liter column of silica gel. When the reaction mixture has been completely adsorbed, the chromatogram is developed with a 1:1 mixture of ethyl acetate and technical hexane (Skellysolve B -- a mixture of isomeric hexanes having a boiling range between 60° and 70° C.). The appropriate fractions as determined by TLC are collected and combined, after which the solvents are removed by evaporation under reduced pressure. The crystals thus obtained are recrystallized from technical hexane, and there is thus obtained 10.82 gm. (91% yield) of the desired cyclohexane - 1,4-dione, ethylene monoketal having a melting point at 68° to 69° C. [The literature value is 71.5° to 72.5° C.]

reactant | 4-hydroxycyclohexanone | 0.085 mole | OC1CCC(CC1)=O | C6H10O2
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-hydroxycyclohexanone ethylene monoketal | C1COC2(CCC(CC2)O)O1 | C8H14O3
